US05556987
Synthesis of 3-Ethoxycarbonyl-5-hydroxy-1-methylpyrazole
To 800 ml of ethanol were added 108 g (1.1 mol) of sulfuric acid, 92.1 g (2.0 mol) of methylhydrazine, and 462.4 g (2.20 mol) of sodium diethyloxalacetate. This mixture was stirred at room temperature for 2 hours, and then heated with refluxing and stirring for 3 hours. After the ethanol was distilled off, 800 ml of water was added to the residue. The resulting mixture was allowed to stand at room temperature overnight, and the crystals yielded were taken out by filtration and washed with water. Yield: 279 g (82%). Melting point: 151°-153° C.

reactant | sulfuric acid | 1.1 mol, 108 g | S(O)(O)(=O)=O | H2O4S
reactant | methylhydrazine | 2.0 mol, 92.1 g | CNN | CH6N2
reactant | sodium diethyloxalacetate | 2.20 mol, 462.4 g | C(C)C(C(=O)[O-])(C(=O)C(=O)[O-])CC.[Na+].[Na+]
reactant | ethanol | 800 ml | C(C)O | C2H6O
product | 3-Ethoxycarbonyl-5-hydroxy-1-methylpyrazole | C(C)OC(=O)C1=NN(C(=C1)O)C | C7H10N2O3
